US04032528
To a solution of 10.0 g. of 1-methyl-4-hydroxyquinolin-2(1H)-one in 150 ml. of dimethylformamide is added 2.4 g. of pentane washed with sodium hydride and the resulting mixture stirred for 2 hours at room temperature. There is then added 10.6 g. of n-butyl iodide and the resulting mixture is stirred for 24 hours at room temperature. The reaction mixture is then poured onto 1.3 liters of cold water, extracted with ethyl acetate, washed 3 times with water, dried, charcoaled, filtered and evaporated in vacuo. The resulting oil is dissolved in 120 ml. of ether and cooled in an acetone/dry ice bath to crystallize solids which are filtered off and washed with cold ether to obtain 1-methyl-4-butoxyquinolin-2 (1H)-one, m.p. 77°-80° C.

reactant | 1-methyl-4-hydroxyquinolin-2(1H)-one | CN1C(C=C(C2=CC=CC=C12)O)=O | C10H9NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-methyl-4-butoxyquinolin-2 (1H)-one | CN1C(C=C(C2=CC=CC=C12)OCCCC)=O | C14H17NO2
